US07973026B2
Step 3: 13-cyclohexyl-6-[(3S)-1-isopropylpyrrolidin-3-yl]-5,6,7,8-tetrahydrothieno[2′,3′:4,5]pyrrolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid
Methyl 6-cyclohexyl-5-[2-({[(3S)-1-isopropylpyrrolidin-3-yl]amino}methyl)phenyl]-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate was dissolved in MeOH/THF/water and LiOH monohydrate (1.04 eq.) was added to the solution. The mixture was left stirring at RT for 5 h. All volatiles were evaporated i. vac. and the residual material was dried i. vac. The crude material was redissolved in DMF, HATU (1.2 eq.) and DIPEA (3.6 eq.) were added and the mixture was left stirring overnight. All volatiles were evaporated i. vac. and the residual material was filtered with EtOAc/PE+1% NEt3 through silica gel. After evaporation of the solvents the crude product was dissolved in THF and 2M borane dimethylsulfide complex in THF (20 eq.) was added. After 1 h all volatiles were evaporated i. vac. and the residual material was dissolved in an excess of 1.25M HCl in MeOH. The solution was warmed to 70° C. and evaporated slowly to dryness. The crude residue was dissolved in dioxane and an excess of 1N aq. KOH-solution was added. The mixture was left stirring over night and then warmed for 2 h to 50° C. The product was then isolated by prep. RP-HPLC. After lyophilisation of the product fractions a colourless solid was obtained (42%). 1H-NMR (400 MHz, DMSO-d6, 330 K, mixture of atropisomers, δ) 7.90-7.88 (2s, 1H); 7.53-7.47 (m, 3H), 7.39-7.37 (2s, 1H), 4.59-4.48 (m, 1H), 3.91-3.42 (m, 5H), 3.30-3.18 (m, 1H), 3.10-2.67 (m, 2H), 2.60-2.51 (m, 3H), 2.33-2.15 (m, 2H), 2.03-2.00 (m, 1H), 1.85-1.82 (m, 1H), 1.74-1.65 (m, 3H), 1.59-1.43 (m, 2H), 1.36-1.10 (m, 10H); MS (ES+) m/z 492 (M+H)+; [α]D20−4.8° (c=1.0 in MeCN).

reactant | Methyl 6-cyclohexyl-5-[2-({[(3S)-1-isopropylpyrrolidin-3-yl]amino}methyl)phenyl]-4-(2-methoxy-2-oxoethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=C(C=CC=C1)CN[C@@H]1CN(CC1)C(C)C)CC(=O)OC)C=C(S2)C(=O)OC | C31H41N3O4S
reactant | HATU | 1.2 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.6 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 20 eq. | C1CCOC1 | C4H8O
solvent | MeOH THF water | CO.C1CCOC1.O
solvent | MeCN | CC#N | C2H3N
product | 13-cyclohexyl-6-[(3S)-1-isopropylpyrrolidin-3-yl]-5,6,7,8-tetrahydrothieno[2′,3′:4,5]pyrrolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid | C1(CCCCC1)C=1C2=C(N3C1C1=C(CN(CC3)[C@@H]3CN(CC3)C(C)C)C=CC=C1)C=C(S2)C(=O)O | C29H37N3O2S
